US04864021
Preparation of 3'-O-(3-chlorobenzyl)-2'-deoxy-5-fluorouridine
A 2.00 g quantity of potassium hydroxide was dissolved in a mixture of 75 ml of water and 40 ml of dioxane. To the solution were added 1.00 g of 2'-deoxy-5-fluorouridine and 2.50 g of 3-chlorobenzyl chloride, and the resulting mixture was stirred at 45° C. for 3 days. After the reaction, the same subsequent procedure as in Examples 4 and 5 was carried out, and the residue was placed on a silica gel column to conduct a gradient elution with chloroform and mixtures of methanol (up to 2%) and chloroform, thereby producing 0.21 g of the title compound in a yield of 14%.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 2'-deoxy-5-fluorouridine | 1.00 g | FC=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C9H11FN2O5
reactant | 3-chlorobenzyl chloride | 2.50 g | ClC=1C=C(CCl)C=CC1 | C7H6Cl2
solvent | water | 75 ml | O | H2O
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 3'-O-(3-chlorobenzyl)-2'-deoxy-5-fluorouridine | 0.21 g, yield of 14% | ClC=1C=C(CO[C@H]2C[C@@H](O[C@@H]2CO)N2C(=O)NC(=O)C(=C2)F)C=CC1 | C16H16ClFN2O5
